US05660598
A mixture of indoline (17 parts), 1-bromoheptane (31 parts), potassium carbonate (24 parts) and N,N-dimethylformamide (30 parts) was stirred at 100° C. for 3 days. The cooled mixture was diluted with toluene, washed with water (×4), dried (MgSO4) and evaporated to leave 1-heptyl-2,3-dihydro-1H-indole (30 parts).

reactant | indoline | N1CCC2=CC=CC=C12 | C8H9N
reactant | 1-bromoheptane | BrCCCCCCC | C7H15Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-heptyl-2,3-dihydro-1H-indole | C(CCCCCC)N1CCC2=CC=CC=C12 | C15H23N
